US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (1.3 mL) was added to a methanol (2.2 mL) suspension of the obtained methyl 5-methoxy-4-phenyl-2-(5-phenylpyridine-3-carboxamido)-benzoate (0.11 g) at room temperature, followed by stirring at the same temperature for 30 minutes. Chloroform (3 mL) and methanol (2 mL) were added to the reaction mixture, followed by stirring at room temperature for 4 hours. The solvent was evaporated under reduced pressure, and ethanol and water were added to the obtained residue. After adjusting the pH to 1 with 6 mol/L hydrochloric acid, the solid substance was collected by filtration to obtain 88 mg of 5-methoxy-4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | sodium hydroxide | 1.3 mL | [OH-].[Na+]
reactant | methyl 5-methoxy-4-phenyl-2-(5-phenylpyridine-3-carboxamido)-benzoate | 0.11 g | COC=1C(=CC(=C(C(=O)OC)C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H22N2O4
reactant | Chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 2.2 mL | CO | CH4O
product | 5-methoxy-4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 88 mg | COC=1C(=CC(=C(C(=O)O)C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N2O4
